US04022833
A solution of 1-undecene oxide (88.8 g.), hexamethylenediamine (1,6-hexanediamine, 30.3 g.) and methanol (400 ml.) was allowed to stand at 0° C. overnight, then at room temperature over the weekend. The solid was collected and recrystallized from ethanol, affording N,N'-(1,6-hexylene)-bis[2-hydroxyundecylamine] (I: R= CH3 (CH2)8, R' = X= (CH2)6 ; Z= H)(m.p. 122.6°-129.0° C.).

reactant | 1-undecene oxide | 88.8 g | C1C(CCCCCCCCC)O1 | C11H22O
reactant | hexamethylenediamine | 30.3 g | NCCCCCCN | C6H16N2
solvent | methanol | 400 ml | CO | CH4O
product | N,N'-(1,6-hexylene)-bis[2-hydroxyundecylamine] | C(CCCCCNCC(CCCCCCCCC)O)NCC(CCCCCCCCC)O | C28H60N2O2
